US08685418B2
To a stirred solution of 1-(cyclohexyl(methyl)amino)propan-2-yl 2-isopropylbenzoate (0.45 g, 1.41 mmol) in DCE (3 mL) was added methyl iodide (0.35 mL, 5.67 mmol) and the reaction mixture was stirred at rt for 16 hours in a sealed tube. The reaction mixture was concentrated and the crude material was purified by Combiflash® chromatography, eluting with 3-4% CH3OH/DCM to provide a solid which was crystallized from methanol-ether to provide white N-[2-((2-isopropylbenzoyl)oxy)propyl]-N,N-dimethylcyclohexanaminium iodide. Yield: 0.415 g (64%). 1H NMR (DMSO-d6) δ 7.71 (d, J=8 Hz, 1 H), 7.58-7.50 (m, 2 H), 7.31 (t, J=7 Hz, 1 H), 5.57-5.54 (m, 1 H), 3.93-3.87 (m, 1 H), 3.67-3.57 (m, 2 H), 3.38-3.34 (m, 1 H), 3.05 (s, 3 H), 3.02 (s, 3 H), 2.17-2.08 (m, 2 H), 1.87-1.84 (m, 1 H), 1.75-1.72 (m, 1 H), 1.54-1.42 (m, 3 H), 1.40 (d, J=6 Hz, 3 H), 1.24-1.19 (m, 7 H), 1.13-0.99 (m, 2 H). LCMS: m/z=332.0 [M+], RT=3.01 min, (Column: Y, Program: P1). UPLC: 98.43% (200 nm), RT=3.60 min (Mobile Phase A. 0.05% TFA in water, B. Acetonitrile; Column: Zorbax® SB-C18 (4.6×50 mm) 1.8μ)

reactant | 1-(cyclohexyl(methyl)amino)propan-2-yl 2-isopropylbenzoate | 1.41 mmol, 0.45 g | C(C)(C)C1=C(C(=O)OC(CN(C)C2CCCCC2)C)C=CC=C1 | C20H31NO2
reactant | methyl iodide | 5.67 mmol, 0.35 mL | CI | CH3I
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | N-[2-((2-isopropylbenzoyl)oxy)propyl]-N,N-dimethylcyclohexanaminium iodide | [I-].C(C)(C)C1=C(C(=O)OC(C[N+](C2CCCCC2)(C)C)C)C=CC=C1 | InChI=1S/C21H34NO2.HI/c1-16(2)19-13-9-10-14-20(19)21(23)24-17(3)15-22(4,5)18-11-7-6-8-12-18;/h9-10,13-14,16-18H,6-8,11-12,15H2,1-5H3;1H/q+1;/p-1
